US08895582B2
To a solution of (S)-2-(3-(2,3-difluorobenzyl)-1-methylureido)-6-(dimethoxyphosphoryloxy)hexyl isoquinolin-3-ylcarbamate (0.28 g, 0.47 mmol, 1.0 equiv.) in acetonitrile (25 mL) was added TMSI (0.28 mL, 1.88 mmol, 4.0 equiv.) at RT After stirred at RT for 15 min, the reaction was quenched with MeOH. The solvent was concentrated. The resulting residue was purified on RP-HPLC using a mixture of acetonitrile and H2O with 0.1% TFA. The fractions containing the product were combined and concentrated. The resulting residue was suspended in EtOAc, 5 drops of HCl (4 M in 1,4-dioxane) were added, and the organic solvent was removed. This procedure was repeated to give (S)-2-(3-(2,3-difluorobenzyl)-1-methylureido)-6-(phosphonooxy)hexyl isoquinolin-3-ylcarbamate (0.16 g, 57%) as a HCl salt. LRMS (M+H+) m/z 567.2.

reactant | (S)-2-(3-(2,3-difluorobenzyl)-1-methylureido)-6-(dimethoxyphosphoryloxy)hexyl isoquinolin-3-ylcarbamate | 0.47 mmol, 0.28 g, 1.0 equiv. | C1=NC(=CC2=CC=CC=C12)NC(OC[C@H](CCCCOP(=O)(OC)OC)N(C(=O)NCC1=C(C(=CC=C1)F)F)C)=O | C27H33F2N4O7P
reactant | TMSI | 1.88 mmol, 0.28 mL, 4.0 equiv. | [Si](C)(C)(C)I | C3H9ISi
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | (S)-2-(3-(2,3-difluorobenzyl)-1-methylureido)-6-(phosphonooxy)hexyl isoquinolin-3-ylcarbamate | 0.16 g, 57% | C1=NC(=CC2=CC=CC=C12)NC(OC[C@H](CCCCOP(=O)(O)O)N(C(=O)NCC1=C(C(=CC=C1)F)F)C)=O | C25H29F2N4O7P
